* R04E8 - corrected-Cfly voltage-ratio-gated EPE2019 3-state
* charge-redistribution ladder bootstrap (r04e8_cfly_3uF)
* SENSITIVITY CASE: CFLY=3 uF (vs R04E7's 53.8 uF EPE2019
* Table-I cross-topology value), TOL=+/-2% FIXED (not swept -- R04E7's own
* best-performing tolerance), TCAP_TOTAL=10 us safety cap
* (fixed across the grid, post-pilot -- see BOUNDARY.md Section 6).
* PARENT: R04E7_ratio_gated_charge_redistribution_startup (same truth
* table, same power stage, same ratio-gating .machine construct, same
* Cout). SINGLE CHANGE: CFLY's numeric value. Also changed (numerical
* resolution only, not physical, not swept): TMAX reduced from R04E7's
* 1ns to 50ps to resolve the faster RC dynamics at this smaller
* capacitance (BOUNDARY.md Section 6, validated against the pilot run).
* Power-stage connectivity (SH1-4/SL1-4/CS1-3/L1-4 node names) is copied
* UNCHANGED from R04E7's SCB4P_P24_R04E7 subcircuit.
* True zero initial energy on every capacitor and inductor (ic=0, UIC).
* SCOPE: ladder bootstrap ONLY -- no PWM, no P24 steady-state ZVS admission
* chain, no Vout regulation attempt, no four-phase claim (H4/L4 off).

.include "../../../../paper_locked/04_component_models/GS61008T_typical_params.lib"
.param VIN=48 VOUT_REF=1 POUT_MODULE=250 NP=4 NM=4
.param LPHASE=1.466666666666667n CFLY=3.000000e-06
.param COUT={8*220u+32*47u+64*22u} RLOAD={VOUT_REF*VOUT_REF/POUT_MODULE}
.param CH={GS61008T_COTR_0_50V} CL={2*GS61008T_COTR_0_50V}
.param RHS={GS61008T_RDS_TYP_25C} RLS={GS61008T_RDS_TYP_25C/2}
.param RLDAMP=1u

.param TOL=0.02
.param TARGET1=36 TARGET2=24 TARGET3=12
.param LO1={TARGET1*(1-TOL)} HI1={TARGET1*(1+TOL)}
.param LO2={TARGET2*(1-TOL)} HI2={TARGET2*(1+TOL)}
.param LO3={TARGET3*(1-TOL)} HI3={TARGET3*(1+TOL)}
.param TCAP_TOTAL=1.000000e-05
.param VGATE=5

VRAIL vin 0 {VIN}
CCO out 0 {COUT} ic=0
RLOAD_MAIN out 0 {RLOAD}
XMOD vin out 0 gh1_cmd gl1_cmd gh2_cmd gl2_cmd gh3_cmd gl3_cmd SCB4P_P24_R04E8

BVC1 vc1_mon 0 V=V(xmod:a1,xmod:x1)
BVC2 vc2_mon 0 V=V(xmod:a2,xmod:x2)
BVC3 vc3_mon 0 V=V(xmod:a3,xmod:x3)
RVC1 vc1_mon 0 1k
RVC2 vc2_mon 0 1k
RVC3 vc3_mon 0 1k

* Voltage-ratio-gated 3-state machine (UNCHANGED from R04E7 -- see that
* experiment's BOUNDARY.md for the full charge-conservation reasoning).
.machine 1p
.state STATE_A 0
.state STATE_B 1
.state STATE_C 2
.state DONE 3
.state CAPPED 4
.rule STATE_A CAPPED time>=TCAP_TOTAL
.rule STATE_A STATE_B V(vc1_mon)>=TARGET1
.rule STATE_B CAPPED time>=TCAP_TOTAL
.rule STATE_B STATE_C 2*V(vc1_mon)<=3*V(vc2_mon)
.rule STATE_C CAPPED time>=TCAP_TOTAL
.rule STATE_C DONE (V(vc2_mon)<=2*V(vc3_mon)) & (V(vc1_mon)>=LO1) & (V(vc1_mon)<=HI1) & (V(vc2_mon)>=LO2) & (V(vc2_mon)<=HI2) & (V(vc3_mon)>=LO3) & (V(vc3_mon)<=HI3)
.rule STATE_C STATE_A (V(vc2_mon)<=2*V(vc3_mon)) & ((V(vc1_mon)<LO1)|(V(vc1_mon)>HI1)|(V(vc2_mon)<LO2)|(V(vc2_mon)>HI2)|(V(vc3_mon)<LO3)|(V(vc3_mon)>HI3))
.output (gh1_cmd) VGATE*(state==STATE_A)
.output (gl1_cmd) VGATE*((state==STATE_A)+(state==STATE_B))
.output (gh2_cmd) VGATE*(state==STATE_B)
.output (gl2_cmd) VGATE*((state==STATE_B)+(state==STATE_C))
.output (gh3_cmd) VGATE*(state==STATE_C)
.output (gl3_cmd) VGATE*(state==STATE_C)
.output (state_mon) state
.output (cyc_end_flag) VGATE*(state==STATE_C)
.endmachine

RSTATE state_mon 0 1k
RCYCFLAG cyc_end_flag 0 1k
RGH1 gh1_cmd 0 1k
RGL1 gl1_cmd 0 1k
RGH2 gh2_cmd 0 1k
RGL2 gl2_cmd 0 1k
RGH3 gh3_cmd 0 1k
RGL3 gl3_cmd 0 1k

.meas tran STATE_FINAL FIND V(state_mon) AT 1.050000e-05
.meas tran VC1_FINAL FIND V(vc1_mon) AT 1.050000e-05
.meas tran VC2_FINAL FIND V(vc2_mon) AT 1.050000e-05
.meas tran VC3_FINAL FIND V(vc3_mon) AT 1.050000e-05
.meas tran VOUT_FINAL FIND V(out) AT 1.050000e-05
.meas tran T_TERMINAL WHEN V(state_mon)=2.5 RISE=1
.meas tran IL1_MAX MAX I(XMOD:L1)
.meas tran IL1_MIN MIN I(XMOD:L1)
.meas tran ICS1_MAX MAX I(XMOD:CS1) FROM 1n TO 1.050000e-05
.meas tran ICS1_MIN MIN I(XMOD:CS1) FROM 1n TO 1.050000e-05
.meas tran ICS2_MAX MAX I(XMOD:CS2) FROM 1n TO 1.050000e-05
.meas tran ICS2_MIN MIN I(XMOD:CS2) FROM 1n TO 1.050000e-05
.meas tran ICS3_MAX MAX I(XMOD:CS3) FROM 1n TO 1.050000e-05
.meas tran ICS3_MIN MIN I(XMOD:CS3) FROM 1n TO 1.050000e-05
.meas tran VC1_CYC1 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=1
.meas tran VC2_CYC1 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=1
.meas tran VC3_CYC1 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=1
.meas tran T_CYC1 WHEN V(cyc_end_flag)=2.5 FALL=1
.meas tran VC1_CYC2 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=2
.meas tran VC2_CYC2 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=2
.meas tran VC3_CYC2 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=2
.meas tran T_CYC2 WHEN V(cyc_end_flag)=2.5 FALL=2
.meas tran VC1_CYC3 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=3
.meas tran VC2_CYC3 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=3
.meas tran VC3_CYC3 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=3
.meas tran T_CYC3 WHEN V(cyc_end_flag)=2.5 FALL=3
.meas tran VC1_CYC4 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=4
.meas tran VC2_CYC4 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=4
.meas tran VC3_CYC4 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=4
.meas tran T_CYC4 WHEN V(cyc_end_flag)=2.5 FALL=4
.meas tran VC1_CYC5 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=5
.meas tran VC2_CYC5 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=5
.meas tran VC3_CYC5 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=5
.meas tran T_CYC5 WHEN V(cyc_end_flag)=2.5 FALL=5
.meas tran VC1_CYC6 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=6
.meas tran VC2_CYC6 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=6
.meas tran VC3_CYC6 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=6
.meas tran T_CYC6 WHEN V(cyc_end_flag)=2.5 FALL=6
.meas tran VC1_CYC7 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=7
.meas tran VC2_CYC7 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=7
.meas tran VC3_CYC7 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=7
.meas tran T_CYC7 WHEN V(cyc_end_flag)=2.5 FALL=7
.meas tran VC1_CYC8 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=8
.meas tran VC2_CYC8 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=8
.meas tran VC3_CYC8 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=8
.meas tran T_CYC8 WHEN V(cyc_end_flag)=2.5 FALL=8
.meas tran VC1_CYC9 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=9
.meas tran VC2_CYC9 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=9
.meas tran VC3_CYC9 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=9
.meas tran T_CYC9 WHEN V(cyc_end_flag)=2.5 FALL=9
.meas tran VC1_CYC10 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=10
.meas tran VC2_CYC10 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=10
.meas tran VC3_CYC10 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=10
.meas tran T_CYC10 WHEN V(cyc_end_flag)=2.5 FALL=10
.meas tran VC1_CYC11 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=11
.meas tran VC2_CYC11 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=11
.meas tran VC3_CYC11 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=11
.meas tran T_CYC11 WHEN V(cyc_end_flag)=2.5 FALL=11
.meas tran VC1_CYC12 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=12
.meas tran VC2_CYC12 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=12
.meas tran VC3_CYC12 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=12
.meas tran T_CYC12 WHEN V(cyc_end_flag)=2.5 FALL=12
.meas tran VC1_CYC13 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=13
.meas tran VC2_CYC13 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=13
.meas tran VC3_CYC13 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=13
.meas tran T_CYC13 WHEN V(cyc_end_flag)=2.5 FALL=13
.meas tran VC1_CYC14 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=14
.meas tran VC2_CYC14 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=14
.meas tran VC3_CYC14 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=14
.meas tran T_CYC14 WHEN V(cyc_end_flag)=2.5 FALL=14
.meas tran VC1_CYC15 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=15
.meas tran VC2_CYC15 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=15
.meas tran VC3_CYC15 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=15
.meas tran T_CYC15 WHEN V(cyc_end_flag)=2.5 FALL=15
.meas tran VC1_CYC16 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=16
.meas tran VC2_CYC16 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=16
.meas tran VC3_CYC16 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=16
.meas tran T_CYC16 WHEN V(cyc_end_flag)=2.5 FALL=16
.meas tran VC1_CYC17 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=17
.meas tran VC2_CYC17 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=17
.meas tran VC3_CYC17 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=17
.meas tran T_CYC17 WHEN V(cyc_end_flag)=2.5 FALL=17
.meas tran VC1_CYC18 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=18
.meas tran VC2_CYC18 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=18
.meas tran VC3_CYC18 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=18
.meas tran T_CYC18 WHEN V(cyc_end_flag)=2.5 FALL=18
.meas tran VC1_CYC19 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=19
.meas tran VC2_CYC19 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=19
.meas tran VC3_CYC19 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=19
.meas tran T_CYC19 WHEN V(cyc_end_flag)=2.5 FALL=19
.meas tran VC1_CYC20 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=20
.meas tran VC2_CYC20 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=20
.meas tran VC3_CYC20 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=20
.meas tran T_CYC20 WHEN V(cyc_end_flag)=2.5 FALL=20
.meas tran VC1_CYC21 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=21
.meas tran VC2_CYC21 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=21
.meas tran VC3_CYC21 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=21
.meas tran T_CYC21 WHEN V(cyc_end_flag)=2.5 FALL=21
.meas tran VC1_CYC22 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=22
.meas tran VC2_CYC22 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=22
.meas tran VC3_CYC22 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=22
.meas tran T_CYC22 WHEN V(cyc_end_flag)=2.5 FALL=22
.meas tran VC1_CYC23 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=23
.meas tran VC2_CYC23 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=23
.meas tran VC3_CYC23 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=23
.meas tran T_CYC23 WHEN V(cyc_end_flag)=2.5 FALL=23
.meas tran VC1_CYC24 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=24
.meas tran VC2_CYC24 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=24
.meas tran VC3_CYC24 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=24
.meas tran T_CYC24 WHEN V(cyc_end_flag)=2.5 FALL=24
.meas tran VC1_CYC25 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=25
.meas tran VC2_CYC25 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=25
.meas tran VC3_CYC25 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=25
.meas tran T_CYC25 WHEN V(cyc_end_flag)=2.5 FALL=25
.meas tran VC1_CYC26 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=26
.meas tran VC2_CYC26 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=26
.meas tran VC3_CYC26 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=26
.meas tran T_CYC26 WHEN V(cyc_end_flag)=2.5 FALL=26
.meas tran VC1_CYC27 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=27
.meas tran VC2_CYC27 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=27
.meas tran VC3_CYC27 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=27
.meas tran T_CYC27 WHEN V(cyc_end_flag)=2.5 FALL=27
.meas tran VC1_CYC28 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=28
.meas tran VC2_CYC28 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=28
.meas tran VC3_CYC28 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=28
.meas tran T_CYC28 WHEN V(cyc_end_flag)=2.5 FALL=28
.meas tran VC1_CYC29 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=29
.meas tran VC2_CYC29 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=29
.meas tran VC3_CYC29 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=29
.meas tran T_CYC29 WHEN V(cyc_end_flag)=2.5 FALL=29
.meas tran VC1_CYC30 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=30
.meas tran VC2_CYC30 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=30
.meas tran VC3_CYC30 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=30
.meas tran T_CYC30 WHEN V(cyc_end_flag)=2.5 FALL=30
.meas tran VC1_CYC31 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=31
.meas tran VC2_CYC31 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=31
.meas tran VC3_CYC31 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=31
.meas tran T_CYC31 WHEN V(cyc_end_flag)=2.5 FALL=31
.meas tran VC1_CYC32 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=32
.meas tran VC2_CYC32 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=32
.meas tran VC3_CYC32 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=32
.meas tran T_CYC32 WHEN V(cyc_end_flag)=2.5 FALL=32
.meas tran VC1_CYC33 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=33
.meas tran VC2_CYC33 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=33
.meas tran VC3_CYC33 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=33
.meas tran T_CYC33 WHEN V(cyc_end_flag)=2.5 FALL=33
.meas tran VC1_CYC34 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=34
.meas tran VC2_CYC34 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=34
.meas tran VC3_CYC34 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=34
.meas tran T_CYC34 WHEN V(cyc_end_flag)=2.5 FALL=34
.meas tran VC1_CYC35 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=35
.meas tran VC2_CYC35 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=35
.meas tran VC3_CYC35 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=35
.meas tran T_CYC35 WHEN V(cyc_end_flag)=2.5 FALL=35
.meas tran VC1_CYC36 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=36
.meas tran VC2_CYC36 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=36
.meas tran VC3_CYC36 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=36
.meas tran T_CYC36 WHEN V(cyc_end_flag)=2.5 FALL=36
.meas tran VC1_CYC37 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=37
.meas tran VC2_CYC37 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=37
.meas tran VC3_CYC37 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=37
.meas tran T_CYC37 WHEN V(cyc_end_flag)=2.5 FALL=37
.meas tran VC1_CYC38 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=38
.meas tran VC2_CYC38 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=38
.meas tran VC3_CYC38 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=38
.meas tran T_CYC38 WHEN V(cyc_end_flag)=2.5 FALL=38
.meas tran VC1_CYC39 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=39
.meas tran VC2_CYC39 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=39
.meas tran VC3_CYC39 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=39
.meas tran T_CYC39 WHEN V(cyc_end_flag)=2.5 FALL=39
.meas tran VC1_CYC40 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=40
.meas tran VC2_CYC40 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=40
.meas tran VC3_CYC40 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=40
.meas tran T_CYC40 WHEN V(cyc_end_flag)=2.5 FALL=40
.meas tran VC1_CYC41 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=41
.meas tran VC2_CYC41 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=41
.meas tran VC3_CYC41 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=41
.meas tran T_CYC41 WHEN V(cyc_end_flag)=2.5 FALL=41
.meas tran VC1_CYC42 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=42
.meas tran VC2_CYC42 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=42
.meas tran VC3_CYC42 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=42
.meas tran T_CYC42 WHEN V(cyc_end_flag)=2.5 FALL=42
.meas tran VC1_CYC43 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=43
.meas tran VC2_CYC43 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=43
.meas tran VC3_CYC43 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=43
.meas tran T_CYC43 WHEN V(cyc_end_flag)=2.5 FALL=43
.meas tran VC1_CYC44 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=44
.meas tran VC2_CYC44 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=44
.meas tran VC3_CYC44 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=44
.meas tran T_CYC44 WHEN V(cyc_end_flag)=2.5 FALL=44
.meas tran VC1_CYC45 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=45
.meas tran VC2_CYC45 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=45
.meas tran VC3_CYC45 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=45
.meas tran T_CYC45 WHEN V(cyc_end_flag)=2.5 FALL=45
.meas tran VC1_CYC46 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=46
.meas tran VC2_CYC46 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=46
.meas tran VC3_CYC46 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=46
.meas tran T_CYC46 WHEN V(cyc_end_flag)=2.5 FALL=46
.meas tran VC1_CYC47 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=47
.meas tran VC2_CYC47 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=47
.meas tran VC3_CYC47 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=47
.meas tran T_CYC47 WHEN V(cyc_end_flag)=2.5 FALL=47
.meas tran VC1_CYC48 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=48
.meas tran VC2_CYC48 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=48
.meas tran VC3_CYC48 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=48
.meas tran T_CYC48 WHEN V(cyc_end_flag)=2.5 FALL=48
.meas tran VC1_CYC49 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=49
.meas tran VC2_CYC49 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=49
.meas tran VC3_CYC49 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=49
.meas tran T_CYC49 WHEN V(cyc_end_flag)=2.5 FALL=49
.meas tran VC1_CYC50 FIND V(vc1_mon) WHEN V(cyc_end_flag)=2.5 FALL=50
.meas tran VC2_CYC50 FIND V(vc2_mon) WHEN V(cyc_end_flag)=2.5 FALL=50
.meas tran VC3_CYC50 FIND V(vc3_mon) WHEN V(cyc_end_flag)=2.5 FALL=50
.meas tran T_CYC50 WHEN V(cyc_end_flag)=2.5 FALL=50

.options plotwinsize=0 reltol=1e-5 abstol=1e-9 chgtol=1e-16 solver=alt cshunt=1e-15
.save V(vc1_mon) V(vc2_mon) V(vc3_mon) V(state_mon) V(cyc_end_flag) V(out) I(XMOD:L1) I(XMOD:L2) I(XMOD:L3) I(XMOD:CS1) I(XMOD:CS2) I(XMOD:CS3)
.tran 0 1.050000e-05 0 5.000e-11 UIC

.subckt SCB4P_P24_R04E8 vin out g gh1_in gl1_in gh2_in gl2_in gh3_in gl3_in
BGH1 gh1 g V=V(gh1_in,g)
BGL1 gl1 g V=V(gl1_in,g)
BGH2 gh2 g V=V(gh2_in,g)
BGL2 gl2 g V=V(gl2_in,g)
BGH3 gh3 g V=V(gh3_in,g)
BGL3 gl3 g V=V(gl3_in,g)
VGH4 gh4 g 0
VGL4 gl4 g 0

SH1 vin a1 gh1 g SWH
CH1 vin a1 {CH} ic=0
CS1 a1 x1 {CFLY} ic=0
CL1 x1 g {CL} ic=0
SL1 x1 g gl1 g SWL
L1 x1 out {LPHASE} Rser={RLDAMP} ic=0
SH2 a1 a2 gh2 g SWH
CS2 a2 x2 {CFLY} ic=0
SL2 x2 g gl2 g SWL
L2 x2 out {LPHASE} Rser={RLDAMP} ic=0
SH3 a2 a3 gh3 g SWH
CS3 a3 x3 {CFLY} ic=0
SL3 x3 g gl3 g SWL
L3 x3 out {LPHASE} Rser={RLDAMP} ic=0
SH4 a3 x4 gh4 g SWH
SL4 x4 g gl4 g SWL
L4 x4 out {LPHASE} Rser={RLDAMP} ic=0

RNUM_A1 a1 g 1Meg
RNUM_X1 x1 g 1Meg
RNUM_A2 a2 g 1Meg
RNUM_X2 x2 g 1Meg
RNUM_A3 a3 g 1Meg
RNUM_X3 x3 g 1Meg
RNUM_X4 x4 g 1Meg
.model SWH SW(Ron={RHS} Roff=1T Vt=2.5 Vh=0)
.model SWL SW(Ron={RLS} Roff=1T Vt=2.5 Vh=0)
.ends SCB4P_P24_R04E8
.end
